### PR TITLE
feat: cuts of games are "small"

### PR DESCRIPTION
**Pull request by vihdzp**
We define small cuts, and prove that the left/right cuts of a game are always small.

For a definition of small cuts, see my [Math Overflow answer](https://mathoverflow.net/a/497645/147705).

- [ ] Depends on: #129

### CODE REVIEW

File: CombinatorialGames/Surreal/Cut.lean [hunk 1]
```diff
@@ -149,16 +247,295 @@ theorem mem_right_rightSurreal {x y} : y ∈ (rightSurreal x).right ↔ x < y :=
...
+
+/-- A "small cut" is defined as either the infimum of a small set of left cuts of surreals,
+or the supremum of a small set of right cuts of surreals.
+
+Equivalently, small cuts are the closure of left and right cuts of surreals under small infima and
+suprema.
+
+This isn't a term in the literature, but it's useful for proving that birthdays of surreals equal
+those of their associated games. -/
+protected inductive Small : Cut.{u} → Prop
```
Comment (plp127) [inline CombinatorialGames/Surreal/Cut.lean]: I don't really like `Small`, can this be `IsSmall` instead?

Comment (vihdzp) [reply CombinatorialGames/Surreal/Cut.lean]: Sure, I agree.

File: CombinatorialGames/Surreal/Cut.lean [hunk 2]
```diff
@@ -149,16 +247,298 @@ theorem mem_right_rightSurreal {x y} : y ∈ (rightSurreal x).right ↔ x < y :=
...
+  · rw [← compl_left]
+    intro z hz _ hz'
+    apply (hy' ▸ birthday_lt_of_mem_rightMoves hz).not_ge
+    apply (birthday_simplestBtwn_le_of_mem ..).trans (birthday_mk_le z)
+    refine ⟨isUpperSet_right _ (mk_lt_mk.2 <| Numeric.lt_rightMove hz).le ?_, hz'⟩
+    aesop
+
+/-! ### Small cuts -/
+
+/-- A "small cut" is defined as either the infimum of a small set of left cuts of surreals,
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean:437]: Should this be a class? It doesn't help here, but it would be consistent how this is an inductively defined proposition whose prefixed with `Is`

```suggestion
class inductive IsSmall : Cut.{u} → Prop
  | sInf' (s : Set Surreal) [Small.{u} s] : (sInf (leftSurreal '' s)).IsSmall
  | sSup' (s : Set Surreal) [Small.{u} s] : (sSup (rightSurreal '' s)).IsSmall
```

File: CombinatorialGames/Surreal/Cut.lean (hunk 1 above)
Comment (tristan-f-r) [reply CombinatorialGames/Surreal/Cut.lean]: Should `IsSmall` also be a class?

Comment (vihdzp) [reply CombinatorialGames/Surreal/Cut.lean]: It seems potentially helpful for it to be, I'll try that.
